US06133258
The reaction procedure of Example 11 was followed except that 1.31 g of ethyl 4-[(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate, 36 mg of lithium hydride and 0.25 ml of methyl iodide were used. As a result, 656 mg of ethyl 4-[(3-methyl-4-oxo-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-2-ylidene)amino]benzoate was obtained.

reactant | ethyl 4-[(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate | 1.31 g | O=C1N=C(SC2=C1C=CC=N2)NC2=CC=C(C(=O)OCC)C=C2 | C16H13N3O3S
reactant | lithium hydride | 36 mg | [H-].[Li+]
reactant | methyl iodide | 0.25 ml | CI | CH3I
product | ethyl 4-[(3-methyl-4-oxo-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-2-ylidene)amino]benzoate | 656 mg | CN1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C(=O)OCC)C=C2 | C17H15N3O3S
